US04734416
5 Grams of 6-chloro-8-bromo-7-hydroxy-3,4-dihydrocarbostyril and 3 g of sodium hydroxide are mixed with 120 ml of isopropanol and stirred at 50°-60° C. for 1 hour. Then 10 ml of 3-bromo-1-chloropropane are added thereto and stirred at 70°-80° C. for 6 hours. The reaction mixture is concentrated under reduced pressure to dryness and the residue thus obtained is extracted with chloroform. The chloroform layer is washed with water and dried. Then chloroform is removed by distillation and the residue thus formed is recrystallized from ethanol to obtain 6.2 g of 6-chloro-8-bromo-7-(3-chloropropoxy)-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with a melting point of 87°-88° C.

reactant | 6-chloro-8-bromo-7-hydroxy-3,4-dihydrocarbostyril | ClC=1C=C2CCC(NC2=C(C1O)Br)=O | C9H7BrClNO2
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
reactant | 3-bromo-1-chloropropane | 10 ml | BrCCCCl | C3H6BrCl
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
product | 6-chloro-8-bromo-7-(3-chloropropoxy)-3,4-dihydrocarbostyril | 6.2 g | ClC=1C=C2CCC(NC2=C(C1OCCCCl)Br)=O | C12H12BrCl2NO2
